US04822787
A solution of isobutyl chloroformate (9 ml) in tetrahydrofuran (20 ml) was dropwise added to a solution of (2S,4R)-1-benzyloxycarbonyl-2-carboxymethyloxymethyl-4-methanesulfonyloxypyrrolidine (24.85 g) and triethylamine (10.75 ml) in tetrahydrofuran (120 ml) at -10°~-5° C. and the mixture was stirred at the same temperature for 30 minutes. The mixture was dropwise added to concentrated ammonia water (250 ml) at 0°-5° C. and the solution was stirred at the same temperature for 30 minutes. The reaction mixture was extracted with ethyl acetate (300 ml). The organic layer was washed with water (200 ml×3), 1N hydrochloric acid (300 ml×2), saturated sodium hydrogen carbonate (300 ml) and brine in turn, dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was subjected to a column chromatography on silica gel (250 g) and eluted with a mixture of methanol and chloroform (2:98 and then 4:96 V/V) to give (2S,4R)-1-benzyloxycarbonyl-2-carbamoylmethyloxymethyl-4-methanesulfonyloxypyrrolidine (15.52 g).

reactant | isobutyl chloroformate | 9 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (2S,4R)-1-benzyloxycarbonyl-2-carboxymethyloxymethyl-4-methanesulfonyloxypyrrolidine | 24.85 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(=O)O | C16H21NO8S
reactant | triethylamine | 10.75 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia water | 250 ml | O.N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | (2S,4R)-1-benzyloxycarbonyl-2-carbamoylmethyloxymethyl-4-methanesulfonyloxypyrrolidine | 15.52 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(N)=O | C16H22N2O7S
